US08003800B2
To a solution of rac-3-[4-(3-amino-2-hydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(4-isobutyl-3-methyl-thiophen-2-yl)-propan-1-one (353 mg, 0.876 mmol) in DCM (10 mL), glycolic acid (127 mg, 1.67 mmol) followed by DIPEA (521 mg, 4.03 mmol) and TBTU (439 mg, 1.37 mmol) is added and the reaction mixture is stirred at rt for 16 h. The mixture is diluted with DCM and washed twice with water. The aq. washings are extracted three times with DCM. The combined organic extracts are dried over MgSO4, filtered and evaporated. The crude product is purified by CC on silica gel eluting with EA containing 0 to 100% of MeOH to give racemic 2-hydroxy-N-(2-hydroxy-3-{4-[3-(4-isobutyl-3-methyl-thiophen-2-yl)-3-oxo-propyl]-2,6-dimethyl-phenoxy}-propyl)-acetamide (160 mg) as a beige solid; LC-MS: tR=0.99 min, [M+1]=462.40; 1H NMR (D6-DMSO): δ 7.66 (t, J=5.9 Hz, 1H), 7.45 8s, 1H), 6.86 (s, 2H), 5.63 (s br, 1H), 5.26 (s br, 1H), 3.91-3.83 (m, 1H), 3.79 (s, 2H), 3.63-3.55 (m, 2H), 3.45-3.36 (m, 1H), 3.22-3.12 (m 1H), 0.310-3.04 (m, 2H), 2.80-2.73 (m, 2H), 2.40-2.37 (m, 5H), 2.15 (s, 6H), 1.76 (m, J=7.0 Hz, 1H), 0.85 (d, J=6.4 Hz, 6H).

reactant | rac-3-[4-(3-amino-2-hydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(4-isobutyl-3-methyl-thiophen-2-yl)-propan-1-one | 0.876 mmol, 353 mg | NCC(COC1=C(C=C(C=C1C)CCC(=O)C=1SC=C(C1C)CC(C)C)C)O | C23H33NO3S
reactant | glycolic acid | 1.67 mmol, 127 mg | C(CO)(=O)O | C2H4O3
reactant | DIPEA | 4.03 mmol, 521 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 1.37 mmol, 439 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | racemic 2-hydroxy-N-(2-hydroxy-3-{4-[3-(4-isobutyl-3-methyl-thiophen-2-yl)-3-oxo-propyl]-2,6-dimethyl-phenoxy}-propyl)-acetamide | 160 mg | OCC(=O)NCC(COC1=C(C=C(C=C1C)CCC(=O)C=1SC=C(C1C)CC(C)C)C)O | C25H35NO5S
